US04880809
A mixture of 6,7-dimethoxy-1,2-dihydro-3-naphthoic acid (1.7 g) and powdery sulfur (0.47 g) is heated at 215° C. for 30 minutes to afford 6,7-dimethoxy-2-naphthoic acid (1.6 g), which is recrystallized from ethanol to give colorless prisms, m.p. 245°-247° C.

reactant | 6,7-dimethoxy-1,2-dihydro-3-naphthoic acid | 1.7 g | COC=1C=C2C=C(CCC2=CC1OC)C(=O)O | C13H14O4
reactant | sulfur | 0.47 g | [S] | S
product | 6,7-dimethoxy-2-naphthoic acid | 1.6 g | COC=1C=C2C=CC(=CC2=CC1OC)C(=O)O | C13H12O4
